US07217724B2
Ethyl(2S)-2-((3-((2R)-2-(((2R)-2-hydroxy-2-pyridin-3-ylethyl)amino)-propyl)-1H-indol-7-yl)oxy)propanoate
To a suspension of (2S)-2-((3-((2R)-2-(((2R)-2-hydroxy-2-pyridin-3-ylethyl)amino)propyl)-1H-indol-7-yl)oxy)propanoic acid (6.72 g, 17.53 mmol) in ethanol (135 mL) is added a 4N solution of hydrogen chloride in dioxane (55 mL), and the mixture is stirred at room temperature for 2 hours. The reaction solution is evaporated to remove the solvent, and the residue is separated into a saturated aqueous sodium hydrogen carbonate solution and chloroform. The organic layer is washed with a saturated brine, and dried over anhydrous sodium sulfate. The mixture is evaporated to remove the solvent, and to the obtained crude product are added ethyl acetate (50 mL) and diisopropyl ether (50 mL). The product is crystallized and collected by filtration. The product on the filter is washed with diisopropyl ether, and dried to give the title compound (6.26 g, yield: 87%).

reactant | (2S)-2-((3-((2R)-2-(((2R)-2-hydroxy-2-pyridin-3-ylethyl)amino)propyl)-1H-indol-7-yl)oxy)propanoic acid | 17.53 mmol, 6.72 g | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)O)C)C)C=1C=NC=CC1 | C21H25N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | diisopropyl ether | 50 mL | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 135 mL | C(C)O | C2H6O
solvent | dioxane | 55 mL | O1CCOCC1 | C4H8O2
product | Ethyl(2S)-2-((3-((2R)-2-(((2R)-2-hydroxy-2-pyridin-3-ylethyl)amino)-propyl)-1H-indol-7-yl)oxy)propanoate | 6.26 g, yield: 87% | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)OCC)C)C)C=1C=NC=CC1 | C23H29N3O4
